US04962111
p-Tolyl Pyrazinoate
To 3.5 g (25 mmol) of pyrazinoyl chloride dissolved in methylene chloride (20 mL) and pyridine (2 mL) cooled to 0° C. in a 50 mL round bottom flask was added 4-methyl-phenol (3.2 g, 30 mmol). Upon completion of the reaction and isolation as described above, recrystallization from hexanes yielded 1.51 g (24% yield) of the crystalline title compound; m.p.: 120°-123° C. Elemental Analysis: C12H10N2O2Calcd: C:67.28, H:4.71. Found: C:67.4, H:4.66.

reactant | pyrazinoyl chloride | 25 mmol, 3.5 g | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-methyl-phenol | 30 mmol, 3.2 g | CC1=CC=C(C=C1)O | C7H8O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | p-Tolyl Pyrazinoate | 1.51 g, 24% yield | N1=C(C=NC=C1)C(=O)OC1=CC=C(C=C1)C | C12H10N2O2
